US04206120
Methyl 5-(4-Methylthio-2-oxoazetidin-1-yl)-2,4-dioxopentanoate
4-Methylthioazetidin-2-one (940 mg., 8 mmole) and methyl 5-bromo-2,4-dioxopentanoate (2.21 g., 10 mmole) were converted into the title compound using the process described in Example 24.1. The title compound was obtained as a pale yellow gum (550 mg., 27% yield). (Found: M+, 259.05113. C10H13NO5S requires 259.05144). νmax (CHCl3): 1750 (br.) (β-lactam and ester C=O), 1650 and 1600 (β-diketone C=O) cm-1. δ(CDCl3): 2.00 (s, 3H, SCH3), 2.98 (dd, J 16 J' 2 Hz, 1H, β-lactam CHH), 3.43 (dd, J 16, J' 5 Hz, 1H, β-lactam CHH), 3.80 (s, 3H, OCH3), 3.80 (d, J 17 Hz, 1H, NCHH), 4.31 (d, J 17 Hz, 1H, NCHH), 4.73 (dd, J 5, J' 2 Hz, 1H, β-lactam CH), 6.46 (s, 1H, enol, olefinic H), 11.8 (br.s, 1H, enol, OH). m/3: 259 (M+ 9%), 212 (100), 184 (8), 170 (19), 155 (28), 152 (40), 116 (80), 110 (95).

reactant | 4-Methylthioazetidin-2-one | 8 mmole, 940 mg | CSC1CC(N1)=O | C4H7NOS
reactant | methyl 5-bromo-2,4-dioxopentanoate | 10 mmole, 2.21 g | BrCC(CC(C(=O)OC)=O)=O | C6H7BrO4
product | Methyl 5-(4-Methylthio-2-oxoazetidin-1-yl)-2,4-dioxopentanoate | CSC1CC(N1CC(CC(C(=O)OC)=O)=O)=O | C10H13NO5S
